Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLQ pain
 
Major Surgical or Invasive Procedure:
Laparoscopic Meckel's diverticulectomy and appendectomy
 
History of Present Illness:
The patient is a very pleasant, ___ gentleman who had 
presentation to our hospital with right lower quadrant abdominal 
pain.  He was admitted in ___ of this year with what was seen on 
CT as Meckel's diverticulitis or small bowel diverticulum with 
inflammation.  He was subsequently discharged on intravenous 
antibiotics.  He had recurrent abdominal pain in late ___.  He 
was treated with additional course of antibiotics, and was seen 
in the outpatient clinic.  In followup,  we discussed the 
likelihood of recurrent problems.  He had an outpatient MRI 
enteroscopy to rule out Crohn disease.  He had a Meckel's scan 
on his first admission that was negative for gastric mucosal
Meckel's.  Given his previous inflammation, risks and benefits 
of exploratory laparoscopy and diverticulectomy was performed, 
and the patient admitted post-op to ___ Surgery.
 
Past Medical History:
PMH:  Environmental allergies

Psh:  Wisdom teeth removal

 
Social History:
___
Family History:
No history of cancer or IBD (father was adopted)

 
Physical Exam:
Physical Exam:
VS: 98.6 98.6 97 117/76 16 96ra
Gen: NAD
Neuro: AAOx3, MAE
CV: RRR, normal S1/S2
Pulm: CTA bil, breathing unlabored
Abd: Soft/NT/ND
Wound: Dsg C/D/I
Ext: no CCE
 
Pertinent Results:
___ 03:14PM BLOOD Hct-43.6
___ 03:14PM BLOOD Na-140 K-3.8 Cl-106
___ 03:14PM BLOOD Mg-1.9
 
Brief Hospital Course:
The patient presented to ___ on ___ and underwent 
laparoscopic Meckel's diverticulectomy and appendectomy 
performed by Dr. ___. The patient tolerated the 
procedure well and was subsequently extubated and brought to the 
PACU for postoperative management, admitted under the ___ 
___ Surgery Service. He was transferred to the floor on 
___ for routine post-operative monitoring. He was discharged 
on POD1 on a regular diet and ambulating independently with 
follow-up arranged for Dr. ___ on ___.
 
Neuro: Postoperatively, pain was well-controlled with PO pain 
meds.
 
CV: Vital signs were routinely monitored and the patient 
remained hemodynamically stable.
 
Pulm: Postoperatively, the patient was stable from a respiratory 
standpoint.
 
GI: The patient was placed on a clear diet overnight on the day 
of the operation. On POD1, the patient was advanced to regular 
food, which he tolerated well.
 
GU: Foley catheter was placed perioperatively. It was removed on 
POD0 and patient subsequently voiding spontaneously.
 
ID: The patient received antibiotics perioperatively.
 
PPX: The patient was encouraged to ambulate on this admission.
 
Medications on Admission:
Claritin p.r.n.

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*60 Tablet Refills:*0
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*40 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*14 Capsule Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Meckel's diverticulum
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were recently admitted to the ___ Service 
at ___ for post-operative monitoring following an 
uncomplicated laparascopic Meckel's diverticulectomy and 
appendectomy. You were discharged on post-operative day 1 when 
you were tolerating a regular diet. Please call us with any 
questions or concerns. Please find further instructions below.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 

site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
.
General Discharge Instructions:
1. Please get plenty of rest, continue to ambulate several times 

per day, and drink adequate amounts of fluids.  
2. Avoid lifting weights greater than ___ lbs or lifting that 
requires you to strain until you follow-up with your surgeon, 
who will instruct you further regarding activity restrictions.
3. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .
4. You may take your prescribed pain medication for moderate to 
severe pain.  You may switch to Tylenol or Extra Strength 
Tylenol for mild pain as directed on the packaging.  Please note 
that Percocet and Vicodin have Tylenol as an active ingredient 
so do not take these meds with additional Tylenol.
5. Take prescription pain medications for pain not relieved by 
tylenol.
6. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication if you are experiencing 
constipation. You may use a different over-the-counter stool 
softener if you wish.
7. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
8. Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
Please call your doctor or nurse practitioner or return to the 
nearest ER if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 

or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
 
Followup Instructions:
___